US08541588B2
4-(2-tert-butyl-5-trifluoromethyl-2H-pyrazol-3-yl)-phenol
A mixture of 4,4,4-trifluoro-1-(4-hydroxyphenyl)butane-1,3-dione (500 mg, 0.002 mol) and tert-butylhydrazine hydrochloride (270 mg, 0.0022 mol) in ethanol (12 mL, 0.21 mol) was heated at 150° C. in microwave for 1 h. Solvent was removed and the residue was purified via automated flash chromatography (silica gel, 0% to 30% ethyl acetate in hexanes) to give the product as an off-white solid (0.36 g, 60%). LCMS Rt=1.75 minutes

reactant | 4,4,4-trifluoro-1-(4-hydroxyphenyl)butane-1,3-dione | 0.002 mol, 500 mg | FC(C(CC(=O)C1=CC=C(C=C1)O)=O)(F)F | C10H7F3O3
reactant | tert-butylhydrazine hydrochloride | 0.0022 mol, 270 mg | Cl.C(C)(C)(C)NN
reactant | ethanol | 0.21 mol, 12 mL | C(C)O | C2H6O
product | 4-(2-tert-butyl-5-trifluoromethyl-2H-pyrazol-3-yl)-phenol | 0.36 g, 60% | C(C)(C)(C)N1N=C(C=C1C1=CC=C(C=C1)O)C(F)(F)F | C14H15F3N2O
